US04335098
A mixture of 5.0 g (0.014 mole) of ethyl (E)-3-[5-(1-oxododecyl)-2-furanyl]-2-propenoate and 108 ml of ethanol, is heated to reflux. To the mixture is added 50 ml of 1 N aqueous sodium hydroxide, the ethanol is distilled off being replaced with water, and the aqueous solution is cooled to room temperature acidified with 200 ml of 1 N hydrochloric acid. The solid is collected by filtration and dried. Recrystallization from methanol gives (E)-3-[5-(1-oxododecyl)-2-furanyl]-2-propenoic acid, mp 122°-127° C.

reactant | ethyl (E)-3-[5-(1-oxododecyl)-2-furanyl]-2-propenoate | 0.014 mole, 5.0 g | O=C(CCCCCCCCCCC)C1=CC=C(O1)/C=C/C(=O)OCC | C21H32O4
reactant | sodium hydroxide | 1 N, 50 ml | [OH-].[Na+]
solvent | ethanol | 108 ml | C(C)O | C2H6O
product | (E)-3-[5-(1-oxododecyl)-2-furanyl]-2-propenoic acid | O=C(CCCCCCCCCCC)C1=CC=C(O1)/C=C/C(=O)O | C19H28O4
